US05686618
3-Amino-2-chloro-4-n-propylpyridine
In a 1 liter stirred autoclave 150.0 g of 3-amino-2,6-dichloro-4-n-propylpyridine and 5.0 g of 10% palladium/carbon are suspended in a mixture of 450.0 ml of methanol and 150.0 ml of water and hydrogenated under 3 bars of hydrogen at 50°-70° C. until the uptake of gas has ceased.

reactant | 3-amino-2,6-dichloro-4-n-propylpyridine | 150.0 g | NC=1C(=NC(=CC1CCC)Cl)Cl | C8H10Cl2N2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 450.0 ml | CO | CH4O
solvent | water | 150.0 ml | O | H2O
catalyst | palladium/carbon | 5.0 g | [Pd] | Pd
product | 3-Amino-2-chloro-4-n-propylpyridine | NC=1C(=NC=CC1CCC)Cl | C8H11ClN2
